US09102654B2
(E)-2-((2-Pyridin-3-yl)hydrazono)acetic acid hydrochloride (6a)
Glyoxylic acid (50% in water) (54.5 mL, 494 mmol) and 1 N hydrochloric acid (˜100 mL) were added to 3-hydrazinopyridine dihydrochloride (60.0 g, 330 mmol) and the reaction mixture was stirred at room temperature (about 22° C.) for 2 hours, at which point solid had started to precipitate. The reaction was stirred for 24 hours, at which point LC/MS indicated that it was complete. The mixture was transferred to a flask using acetonitrile (1 L). The mixture was azeotroped three times from acetonitrile (1 L). The resulting suspension was filtered to afford a green solid which was washed with acetonitrile and vacuum dried at 40° C. to afford the desired product (68.3 g, 98%): mp 173-174° C.; 1H NMR (400 MHz, DMSO-d6) δ 12.55 (d, J=1.2 Hz, 1H), 8.61 (d, J=2.5 Hz, 1H), 8.40 (dt, J=5.4, 0.9 Hz, 1H), 8.14 (ddd. J=8.7, 2.6, 1.2 Hz, 1H), 7.91 (dd, J=8.7, 5.4 Hz, 1H), 7.43 (d, J=1.0 Hz, 1H); 13C NMR (101 MHz, DMSO) δ 164.29, 143.15, 133.15, 131.85, 127.97, 127.61, 126.30; ESIMS m/z 166 ([M+H]+).

reactant | Glyoxylic acid | 494 mmol, 54.5 mL | C(C=O)(=O)O | C2H2O3
reactant | 3-hydrazinopyridine dihydrochloride | 330 mmol, 60.0 g | Cl.Cl.N(N)C=1C=NC=CC1
solvent | hydrochloric acid | 1 N, ˜100 mL | Cl | ClH
product | (E)-2-((2-Pyridin-3-yl)hydrazono)acetic acid hydrochloride | 68.3 g, 98% | Cl.N1=CC(=CC=C1)N\N=C\C(=O)O | InChI=1S/C7H7N3O2.ClH/c11-7(12)5-9-10-6-2-1-3-8-4-6;/h1-5,10H,(H,11,12);1H/b9-5+;
